US07750020B2
A solution of the title C compound, [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester (15 g, 0.046 mol) in a mixture of THF (60 mL) and DMTP (10 mL) is cooled to −78° C. under nitrogen. The resulting solution is stirred at −78° C. for 45 min and to this is added LDA (25.6 mL, 6.40 g, 0.059 mol, 25% solution in THF/Hexane). A solution of iodomethylcyclopentane (11.60 g, 0.055 mol) in a mixture of DMTP (12 mL) and THF (20 mL) is added over a period of 15 min at −78° C. and reaction mixture stirred at −78° C. for 3 h further, followed by stirring at 25° C. for 12 h. The reaction mixture is then quenched by the dropwise addition of saturated aqueous ammonium chloride solution (50 mL) and is concentrated in vacuo. The residue is diluted with water (50 mL) and extracted with ethyl acetate (3×100 mL). The organic solution is washed with a saturated aqueous sodium chloride (2×150 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Column chromatography over silica gel (60-120 mesh), using 50% ethyl acetate in hexane as an eluent to afford 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester as a white solid: 1H NMR (400 MHz, CDCl3) δ 0.9-2.1 (m, 11H), 1.2 (t, J=7.1, 3H), 2.3 (s, 3H), 2.5 (br s, 4H), 3.0 (br s, 4H), 3.6 (m, 1H), 4.1 (q, J=7.1, 2H), 7.5 (d, J=8.3, 2H), 7.7 (d, J=8.3, 2H); MS 409 [M+1]+.

reactant | [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester | 0.046 mol, 15 g | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C15H22N2O4S
reactant | LDA | 0.059 mol, 25.6 mL, 6.40 g | [Li+].CC(C)[N-]C(C)C
reactant | iodomethylcyclopentane | 0.055 mol, 11.60 g | ICC1CCCC1 | C6H11I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | DMTP | 10 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
solvent | DMTP | 12 mL | COC1=NN(C(=O)S1)CSP(=S)(OC)OC | C6H11N2O4PS3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C21H32N2O4S
